US07737166B2
4-Cyano-N,N,5-trimethyl-7-[(3R)-3-(dimethylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#40-2)
Under nitrogen atmosphere, a dimethyl sulfoxide (2 ml) solution of (3R)-3-methylaminopyrrolidine (85 μl, 660 μmol) was added at 150° C. to a dimethyl sulfoxide (11 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (180 mg, 557 μmol) and triethylamine (101 μl, 724 μmol), followed by stirring at the same temperature for 30 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with chloroform. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography. The eluate with chloroform/methanol (10:1, v/v) gave the entitled compound (53 mg, 23%) as a white amorphous substance.

reactant | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | (3R)-3-methylaminopyrrolidine | 660 μmol, 85 μl | CN[C@H]1CNCC1 | C5H12N2
reactant | dimethyl sulfoxide | 11 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 557 μmol, 180 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
reactant | triethylamine | 724 μmol, 101 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-N,N,5-trimethyl-7-[(3R)-3-(dimethylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide | 53 mg, 23% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@@H](CC2)N(C)C)C2=CC=CC=C2)C | C24H27N5O2
